US05864039
4-Amino-5-chloro-2-methoxy-N-(piperidin-4-ylmethyl)benzamide dihydrochloride as starting compound and 4-(1-naphthyloxy)butyl bromide are reacted and treated in the same manner as in Example 168 to give 4-amino-5-chloro-N-((1-(4-(1-naphthyloxy)butyl)piperidin-4-yl)methyl)-2-methoxybenzamide.

reactant | 4-Amino-5-chloro-2-methoxy-N-(piperidin-4-ylmethyl)benzamide dihydrochloride | Cl.Cl.NC1=CC(=C(C(=O)NCC2CCNCC2)C=C1Cl)OC
reactant | 4-(1-naphthyloxy)butyl bromide | C1(=CC=CC2=CC=CC=C12)OCCCCBr | C14H15BrO
product | 4-amino-5-chloro-N-((1-(4-(1-naphthyloxy)butyl)piperidin-4-yl)methyl)-2-methoxybenzamide | NC1=CC(=C(C(=O)NCC2CCN(CC2)CCCCOC2=CC=CC3=CC=CC=C23)C=C1Cl)OC | C28H34ClN3O3
